US07399759B2
tert-Butyl 3-(6-cyano-2-pyridyl)propanoate
tert-Butyl 3-(1-oxido-2-pyridyl)propanoate (0.88 g, 3.9 mmol) was dissolved in nitroethane (5 ml). Trimethylsilyl cyanide (0.78 g, 7.9 mmol) and N,N-dimethylcarbamoyl chloride (0.85 g, 7.9 mmol) were added thereto. The reaction mixture was stirred at room temperature for 48 hrs, combined with ethyl acetate and water. The organic layer was washed successively with saturated aqueous sodium hydrogen carbonate solution and saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated. The residue was subjected to a silica gel (50 g) column chromatography and eluted with hexane-ethyl acetate (3:1, v/v) to give the titled compound (0.75 g, 82%). 1H-NMR (CDCl3) δ: 1.42 (9H, s), 2.74 (2H, t, J=7.1 Hz), 3.12 (2H, t, J=7.1 Hz), 7.41 (1H, d, J=7.8 Hz), 7.52 (1H, d, J=7.8 Hz), 7.72 (1H, t, J=7.8 Hz).

reactant | tert-Butyl 3-(1-oxido-2-pyridyl)propanoate | 3.9 mmol, 0.88 g | [O-][N+]1=C(C=CC=C1)CCC(=O)OC(C)(C)C | C12H17NO3
reactant | Trimethylsilyl cyanide | 7.9 mmol, 0.78 g | C[Si](C)(C)C#N | C4H9NSi
reactant | N,N-dimethylcarbamoyl chloride | 7.9 mmol, 0.85 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | nitroethane | 5 ml | [N+](=O)([O-])CC | C2H5NO2
solvent | water | O | H2O
product | tert-Butyl 3-(6-cyano-2-pyridyl)propanoate | 0.75 g, 82% | C(#N)C1=CC=CC(=N1)CCC(=O)OC(C)(C)C | C13H16N2O2
